US06794397B2
N-(4-Ethoxy-2-nitrophenyl)-2-pyrazinecarboxamide
The title compound was prepared from 2-pyrazinecarboxylic acid and 4-ethoxy-2-nitroaniline as a yellow solid as described in Example 15. 1H NMR (CDCl3): 12.34 (s, 1H), 9.50 (d, J=1.2, 1H), 8.91 (d, J=9.0, 1H), 8.84 (d, J=2.4, 1H), 8.72-8.70 (m, 1H), 7.75 (d, J=3.0, 1H), 7.33-7.28 (m, 1H), 4.12 (q, J=6.9, 2H), 1.47 (t, J=6.9, 3H).

reactant | 2-pyrazinecarboxylic acid | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | 4-ethoxy-2-nitroaniline | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
product | N-(4-Ethoxy-2-nitrophenyl)-2-pyrazinecarboxamide | C(C)OC1=CC(=C(C=C1)NC(=O)C1=NC=CN=C1)[N+](=O)[O-] | C13H12N4O4
